US07049310B2
b) 1-ethyl-3-(methylaminomethyl)-1H-indole
According to the procedure of Preparation 17 (c), except substituting 3-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1-isopropyl-1H-indole (0.99 g, 2.98 mmole) for the 3-[N-(Benzyloxycarbonyl)-N-methylaminomethyl)-1-benzyl-1H-indole, the title compound (0.49 g, 82%) was prepared as a white solid: MS (ES) m/e 405 (2M+H)+.

reactant | 3-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1-isopropyl-1H-indole | 2.98 mmole, 0.99 g | C(C1=CC=CC=C1)OC(=O)N(C)CC1=CN(C2=CC=CC=C12)C(C)C | C21H24N2O2
reactant | 3-[N-(Benzyloxycarbonyl)-N-methylaminomethyl)-1-benzyl-1H-indole | C(C1=CC=CC=C1)OC(=O)N(C)CC1=CN(C2=CC=CC=C12)CC1=CC=CC=C1 | C25H24N2O2
product | 1-ethyl-3-(methylaminomethyl)-1H-indole | 0.49 g, 82% | C(C)N1C=C(C2=CC=CC=C12)CNC | C12H16N2
